* tspc_flip_flop


.subckt tspc_flip_flop D 3 CLK 5 6 7 QBAR GND! VDD! 11 12 13 
M1 QBAR 7 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.8645 $Y=0.3170 
M2 7 6 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.7805 $Y=0.3168 
M3 6 CLK 13 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=5.67e-16 PDEO=5.85e-08 
+    PSEO=1.17e-07 $X=0.6965 $Y=0.2303 
M4 13 5 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=5.67e-16 ASEO=2.835e-16 PDEO=1.17e-07 
+    PSEO=5.85e-08 $X=0.6545 $Y=0.2285 
M5 5 3 12 nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.5705 $Y=0.2472 
M6 12 CLK GND! nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.5285 $Y=0.2515 
M7 3 D GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.4445 $Y=0.2300 
M8 QBAR 7 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.8645 $Y=0.3170 
M9 7 6 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.7805 $Y=0.3168 
M10 6 5 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.6545 $Y=0.3638 
M11 5 CLK VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.5705 $Y=0.3630 
M12 3 CLK 11 pmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=5.67e-16 PDEO=5.85e-08 
+    PSEO=1.17e-07 $X=0.4865 $Y=0.3585 
M13 11 D VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=5.67e-16 ASEO=2.835e-16 PDEO=1.17e-07 
+    PSEO=5.85e-08 $X=0.4445 $Y=0.3585 
.ends tspc_flip_flop

